US04891366
Hydrogen chloride gas Was passed through a solution of 1-[(2β, 3α, 5α, 16β, 17α)-3-(acetyloxy)-17-(1-oxobutoxy)-2-(1-piperidinyl)-androstan-16-yl]-1-methylpiperidinium bromide, (0.5 g) in dichloromethane (40 ml), then the solution was evaporated to give a froth. The product was dissolved in acetone and diethyl ether was added to precipitate an amorphous solid, Which Was filtered off and washed with ether. The solid was heated under reflux in acetone to give 1-[(2β, 3α, 5α, 16β, 17α)-3-(acetyloxy)-17-(1-oxobutoxy)-2-(1-piperidinyl)-androstan-16-yl]-1-methylpiperidinium bromide hydrochloride as prisms (0.45 g), m.p. 220°-228° C., [α]D20 =+57.2° (c 1.32 in CHCl3).

reactant | Hydrogen chloride | Cl | ClH
reactant | 1-[(2β, 3α, 5α, 16β, 17α)-3-(acetyloxy)-17-(1-oxobutoxy)-2-(1-piperidinyl)-androstan-16-yl]-1-methylpiperidinium bromide | 0.5 g | [Br-].C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@H]([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1N1CCCCC1)C)OC(CCC)=O)[N+]1(CCCCC1)C
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | acetone | CC(=O)C | C3H6O
product | 1-[(2β, 3α, 5α, 16β, 17α)-3-(acetyloxy)-17-(1-oxobutoxy)-2-(1-piperidinyl)-androstan-16-yl]-1-methylpiperidinium bromide hydrochloride | 0.45 g | Cl.[Br-].C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@H]([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1N1CCCCC1)C)OC(CCC)=O)[N+]1(CCCCC1)C | InChI=1S/C36H61N2O4.BrH.ClH/c1-6-13-33(40)42-34-31(38(5)20-11-8-12-21-38)23-29-27-15-14-26-22-32(41-25(2)39)30(37-18-9-7-10-19-37)24-36(26,4)28(27)16-17-35(29,34)3;;/h26-32,34H,6-24H2,1-5H3;2*1H/q+1;;/p-1/t26-,27+,28-,29-,30-,31-,32-,34+,35-,36-;;/m0../s1
